US05773624
Sodium hydroxide (12.9 g, 321.1 mmol) in water (268 ml) was added to ethyl 2-fluoromethoxyimino-cyanoacetate (46.6 g, 267.6 mmol) under ice-cooling, and the mixture was stirred at room temperature for 3 hrs. To the reaction mixture, hydroxylamine hydrochloride (20.5 g, 294.4 mmol) and then potassium carbonate (16.7 g, 120.4 mmol) were added under ice-cooling, and the mixture was stirred at a room temperature overnight and then concentrated hydrochloric acid (22.3 ml, 267.6 mmol) was added (pH 2). The mixture was concentrated at an internal temperature of 30° C., and then cooled when crystals were separated. The crystals were filtered off and dried to give 2-carboxy-2-fluoromethoxyimino-acetamidoxime (21.3 g, yield: 44.6%).

reactant | Sodium hydroxide | 321.1 mmol, 12.9 g | [OH-].[Na+]
reactant | ethyl 2-fluoromethoxyimino-cyanoacetate | 267.6 mmol, 46.6 g | FCON=C(C(=O)OCC)C#N | C6H7FN2O3
reactant | hydroxylamine hydrochloride | 294.4 mmol, 20.5 g | Cl.NO
reactant | potassium carbonate | 120.4 mmol, 16.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 267.6 mmol, 22.3 ml | Cl | ClH
solvent | water | 268 ml | O | H2O
product | 2-carboxy-2-fluoromethoxyimino-acetamidoxime | 21.3 g, yield: 44.6% | C(=O)(O)C(C(N)=NO)=NOCF | C4H6FN3O4
